US09259470B2
(S)-1-(4-Chloro-3-fluorophenyl)propane-1,3-diol (10.5 g, 51.3 mmol) was dissolved in dichloromethane (200 mL), and imidazole (8.73 g, 128 mmol) was added. The mixture was then cooled to 0° C., and tert-butyldimethylsilyl chloride (9.67 g, 64.1 mmol) was added. The mixture was agitated for 1 hour, diluted with dichloromethane to 250 mL and washed with water, sodium bicarbonate solution, dried and evaporated. Purified by chromatography on silica gel, eluted with 5-10% ethyl acetate/hexanes to give (S)-3-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)propan-1-ol (8.40 g, 26.3 mmol, 51.3% yield) as an oil.

reactant | (S)-1-(4-Chloro-3-fluorophenyl)propane-1,3-diol | 51.3 mmol, 10.5 g | ClC1=C(C=C(C=C1)[C@H](CCO)O)F | C9H10ClFO2
reactant | imidazole | 128 mmol, 8.73 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 64.1 mmol, 9.67 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | (S)-3-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)propan-1-ol | 26.3 mmol, 8.40 g, 51.3% yield | [Si](C)(C)(C(C)(C)C)OCC[C@H](O)C1=CC(=C(C=C1)Cl)F | C15H24ClFO2Si
